US07608631B2
Preparation of 3-(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-[1,2,4]oxadiazole
150 mg of 4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-N-hydroxy-benzamidine and 15 mg of boron trifluoride ethyl etherate are stirred for 2 hours at 140° C. in 2 ml of triethyl orthoformate. The reaction mixture is concentrated, and the residue is taken up in ethyl acetate and washed with water. Concentration of the organic phase and purification over silica gel yield the title compound (compound 1.14).

reactant | 4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-N-hydroxy-benzamidine | 150 mg | ClC1=C(OCCCOC2=CC=C(C(=N)NO)C=C2)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C19H18Cl4N2O4
reactant | boron trifluoride ethyl etherate | 15 mg | B(F)(F)F.CCOCC
solvent | triethyl orthoformate | 2 ml | C(OCC)(OCC)OCC | C7H16O3
product | 3-(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-[1,2,4]oxadiazole | ClC1=C(OCCCOC2=CC=C(C=C2)C2=NOC=N2)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C20H16Cl4N2O4
